US05536725
A mixture of 4.3 grams (0.010 mole) of 2,4-diamino-6-[(phenylmethoxy)(3-trifluoromethylphenyl)]methyl-5,6,7,8-tetrahydroquinazoline and a catalytic amount of 5% palladium on charcoal in 30 mL of ethanol is hydrogenated using a Parr hydrogenator. Upon completion of the uptake of the theoretical amount of hydrogen, the reaction mixture is filtered. The filtrate is concentrated under reduced pressure, yielding [(2,4-diamino-5,6,7,8-tetrahydroquinazolin-6-yl)(3-trifluoromethylphenyl)]methanol

reactant | 2,4-diamino-6-[(phenylmethoxy)(3-trifluoromethylphenyl)]methyl-5,6,7,8-tetrahydroquinazoline | 0.010 mole, 4.3 grams | NC1=NC=2CCC(CC2C(=N1)N)CC1=C(C(=CC=C1)C(F)(F)F)OCC1=CC=CC=C1 | C23H23F3N4O
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | [(2,4-diamino-5,6,7,8-tetrahydroquinazolin-6-yl)(3-trifluoromethylphenyl)]methanol | NC1=NC=2CCC(CC2C(=N1)N)C1=C(C=CC=C1C(F)(F)F)CO | C16H17F3N4O
